US05281626
2-Indanylamine hydrochloride (9.68 g, 57.1 mmol) was added to a suspension of the 4-(N-acetyl-N-methylamino)benzenesulfonyl chloride (12.84 g, 51.9 mmol) prepared in Preparative Example 12 and sodium acetate (18.73 g) in ethanol (100 ml). The obtained mixture was stirred at room temperature for 3 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of common salt, dried over magnesium sulfate, and concentrated to give N-(2 indanyl)-4-(N-acetyl-N-methylamino)benzenesulfonamide as a white crystal (16.92 g, 95%). Ethanol (80 ml) and 1N aqueous sodium hydroxide (80 ml) were added to the white crystal. The obtained mixture was heated under reflux overnight, acidified with 1N aqueous hydrochloric acid, adjusted to pH 8 with sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated to precipitate a crystal. This crystal was recovered by filtration and washed with ether to give the title compound as a white crystal (6.79 g, 46%).

reactant | 2-Indanylamine hydrochloride | 57.1 mmol, 9.68 g | Cl.C1C(CC2=CC=CC=C12)N
reactant | 4-(N-acetyl-N-methylamino)benzenesulfonyl chloride | 51.9 mmol, 12.84 g | C(C)(=O)N(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H10ClNO3S
reactant | sodium acetate | 18.73 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2 indanyl)-4-(N-acetyl-N-methylamino)benzenesulfonamide | 16.92 g, 95% | C1C(CC2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O | C18H20N2O3S
